US08455475B2
tert-Butyl 4,4-bis(2-(methylsulfonyloxy)ethyl)azepane-1-carboxylate
TEA (1.1 ml, 8.36 mmol, 3.0 eq.) was added to a cooled solution of tert-butyl 4,4-bis(2-hydroxyethyl)azepane-1-carboxylate (800 mg, 2.78 mmol, 1.0 eq.) in methylene chloride (10 ml) at 0° C. and then mesylchloride (0.47 ml, 6.13 mmol, 2.2 eq.) was added to the reaction mixture and it was stirred at RT for 2 h. After completion (monitored by TLC), the reaction mixture was diluted with water (20 ml) and methylene chloride (100 ml). The organic part was separated and the water layer was extracted with methylene chloride (2×20 ml). The combined organic layers were washed with brine (20 ml), dried over Na2SO4 and concentrated under reduced pressure to give the crude product which was used in the next step without further purification.

reactant | tert-butyl 4,4-bis(2-hydroxyethyl)azepane-1-carboxylate | 2.78 mmol, 800 mg, 1.0 eq. | OCCC1(CCN(CCC1)C(=O)OC(C)(C)C)CCO | C15H29NO4
reactant | mesylchloride | 6.13 mmol, 0.47 ml, 2.2 eq. | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4,4-bis(2-(methylsulfonyloxy)ethyl)azepane-1-carboxylate | CS(=O)(=O)OCCC1(CCN(CCC1)C(=O)OC(C)(C)C)CCOS(=O)(=O)C | C17H33NO8S2
